US08633175B2
A solution of (4,4-dimethyl cyclohexylidene)methyl methyl ether (6.7 g, 0.043 mol) in THF (200 mL) containing 6M HCl (aq) (60 mL) was stirred at room temperature for 24 hr. The reaction mixture was diluted with a mixture of ethyl ether, hexanes, brine and water. The mixture was separated and the aqueous phase was extracted with ethyl ether. The combined organic phase was washed with brine, dried over Na2SO4, and concentrated in vacuo, affording 4,4-dimethylcyclohexanecarbaldehyde as a yellow oil, used without further purification.

reactant | (4,4-dimethyl cyclohexylidene)methyl methyl ether | 0.043 mol, 6.7 g | CC1(CCC(CC1)=COC)C | C10H18O
reactant | HCl | 6M, 60 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
product | 4,4-dimethylcyclohexanecarbaldehyde | CC1(CCC(CC1)C=O)C | C9H16O
